US07470680B2
In an oven-dried round bottom flask, (S)-2-(4-chloro-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetic acid (50 mg, 0.133 mmol) and 5-chloro-2-(1,2,3,6-tetrahydropyridin-4-yl)benzonitrile (44.1 mg, 0.173 mmol) were dissolved in DMF (2 ml). To this solution was added DIEA (0.093 ml, 0.532 mmol) followed by PyBOP (69.3 mg, 0.133 mmol). The reaction mixture was allowed to stir at room temperature under a nitrogen atmosphere for 3 hours during which time it became dark red in color. The DMF was evaporated under high vacuum. The residue was subjected to column chromatography (silica, 20:1 CH2Cl2/2M NH3 in MeOH). The most pure fractions were collected, evaporated and again subjected to column chromatography (silica, 40:1 CH2Cl2/2M NH3 in MeOH). The fractions were collected, evaporated and dried overnight under vacuum to give (S)-5-chloro-2-(1-(2-(4-chloro-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetyl)-1,2,3,6-tetrahydropyridin-4-yl)benzonitrile (40 mg, 0.069 mmol, 52.1% yield) as a light tan solid. 1H NMR (500 MHz, MeOD) δ ppm 1.24-1.34 (m, 1H) 2.50-2.60 (m, 3H) 2.60-2.76 (m, 2H) 2.95-3.05 (m, 1H) 3.14-3.23 (m, 2H) 3.82-3.91 (m, 1H) 3.90-4.02 (m, 1H) 4.05-4.14 (m, 1H) 4.53-4.62 (m, 2H) 5.54 (d, J=17.4 Hz, 1H) 6.07 (d, J=13.7 Hz, 1H) 7.21 (s, 1H) 7.46 (d, J=8.3 Hz, 1H) 7.64 (d, J =8.5 Hz, 1H) 7.78 (s, 1H) 8.24 (s, 1H); MS (ESI): 575 (M-1H); Rf=1.90 (4 min run).

reactant | (S)-2-(4-chloro-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetic acid | 0.133 mmol, 50 mg | ClC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)CC(=O)O)=O)CC(F)(F)F | C15H13ClF3N3O3
reactant | 5-chloro-2-(1,2,3,6-tetrahydropyridin-4-yl)benzonitrile | 0.173 mmol, 44.1 mg | ClC=1C=CC(=C(C#N)C1)C=1CCNCC1 | C12H11ClN2
reactant | DIEA | 0.532 mmol, 0.093 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | PyBOP | 0.133 mmol, 69.3 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (S)-5-chloro-2-(1-(2-(4-chloro-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetyl)-1,2,3,6-tetrahydropyridin-4-yl)benzonitrile | 0.069 mmol, 40 mg, 52.1% yield | ClC=1C=CC(=C(C#N)C1)C=1CCN(CC1)C(C[C@@H]1CC2=C(C=3C=NNC3C(=C2)Cl)CN(C1=O)CC(F)(F)F)=O | C27H22Cl2F3N5O2
